US05149816
The reaction was carried out as in Example 2A(i) using 525 ml (358 g) of the same MoO3 on silica-alumina catalyst at a reaction temperature of 553° C. Thereafter, consecutive runs of 216 g of MPDA/hour, 216 g of water/hour and 210 L of nitrogen/hour (mole ratio N2 /MPDA=5) resulted in 0.1% net yield of MePip and 73% net yield of Beta in the first-hour run, 0.5% net yield of MePip and 99% net yield of Beta in the second hour, 0.7% net yield of MePip and 86% net yield of Beta in the third hour, 1.4% net yield of MePip and 81% net yield of Beta in the fourth hour, and 1.6% net yield of MePip and 81% net yield of Beta in the fifth hour. Conversions were 100% throughout the runs. These significantly selective and high yields of Beta were achieved without regeneration of the catalyst and with no indication of catalyst deactivation over time as has been common in this area. These superior results were also in contrast to those obtained using the same components, but at a temperature of 400° C. and with hydrogen in place of nitrogen. In those runs the initial net yield of Beta was 34%, but it decreased to 25% by the end of the first hour and no further runs were made as the trend was obvious toward decreasing and unacceptable yields without regeneration. The 73% net yield of Beta over the first hour of this high temperature run also compares favorably with Example 2 above in which a 43% net yield of Beta was observed over 30 minutes at 399° C.

reactant | N2 MPDA | N#N.C1=CC=NC(=C1)SSC2=CC=CC(=C2)CO/C(=C/[N+]#N)/[O-]
reactant | MePip | N1([C@H](C(=O)O)CCCC1)C | C7H13NO2
solvent | water | 216 g | O | H2O
product | MPDA | 216 g | C1=CC=NC(=C1)SSC2=CC=CC(=C2)CO/C(=C/[N+]#N)/[O-] | C14H11N3O2S2
